* /home/pramod/esim-workspace/s21/s21.cir

.include r22.sub
v2  net-_r1-pad1_ gnd 3.3v
v3  d0 gnd pulse(0 1.8 0 5p 5p 1n 2n)
v4  d1 gnd pulse(0 1.8 0 5p 5p 2n 4n)
r3  net-_r2-pad2_ net-_r3-pad2_ 5k
r2  net-_r1-pad2_ net-_r2-pad2_ 5k
r1  net-_r1-pad1_ net-_r1-pad2_ 5k
* u2  d1 plot_v1
* u1  d0 plot_v1
* u3  out1 plot_v1
x2 d0 net-_r1-pad2_ net-_r1-pad1_ net-_x2-pad4_ r22
x1 d0 net-_r3-pad2_ net-_r2-pad2_ net-_x1-pad4_ r22
x3 d1 net-_x1-pad4_ net-_x2-pad4_ out1 r22
r4  net-_r3-pad2_ gnd 5k
.tran 20e-12 10e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(d1)
plot v(d0)
plot v(out1)
.endc
.end
